US07238808B2
Step 1) 6-Bromo-8-methyl-imidazo[1,2-a]pyridine
To a solution of commercially available 2-amino-5-bromo-3-picoline (21.48 g, 115 mmol) and bromoacetaldehyde diethyl acetal (90%, 39.6 mL, 230 mmol) in EtOH (110 mL) was added 48% aq. HBr (11 mL) and the mixture was refluxed for 11 h. Cooled to 23° C., diluted with EtOAc, poured into sat. NaHCO3-sol., separated phases, washed with the organic layer with brine, dried over Na2SO4. Removal of the solvent in vacuum (not over 40° C. bath temperature) left an orange liquid, which was directly coated on silica gel for chromatography. Silica gel column filtration with heptane/EtOAc 50:50->0:100 gave the title compound as a light brown solid (17.36 g, 72%). MS (ISP) 211.0 [(M+H)+], 231.1 [(M+2+H)+].

reactant | 2-amino-5-bromo-3-picoline | 115 mmol, 21.48 g | NC1=NC=C(C=C1C)Br | C6H7BrN2
reactant | bromoacetaldehyde diethyl acetal | 230 mmol, 39.6 mL | C(C)OC(CBr)OCC | C6H13BrO2
reactant | HBr | 11 mL | Br | BrH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOH | 110 mL | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-Bromo-8-methyl-imidazo[1,2-a]pyridine | 17.36 g, 72% | BrC=1C=C(C=2N(C1)C=CN2)C | C8H7BrN2
